US04612379
Although the reaction mechanism is unknown, a process may be considered that at an intermediate step of the reaction, carbon dioxide, acetone and formyl ketene as intermediates are formed from formyl Meldrum's acid, and the formyl ketene reacts with the carbonyl compound to give the objective 1,3-dioxin-4-one derivative. In such a process, since the intermediate formyl ketene is extremely reactive, it is considered that resin formation is promoted in the case of high concentration reaction.

reactant | carbon dioxide | C(=O)=O | CO2
reactant | formyl ketene | C(=O)C=C=O | C3H2O2
reactant | acetone | CC(=O)C | C3H6O
product | formyl Meldrum's acid | CC1(OC(=O)C(=CO)C(=O)O1)C | C7H8O5
